US08557983B2
2-chloro-3-fluorophenol
To a solution of 2-chloro-3-fluorophenylboronic acid (5.0 g) in tetrahydrofuran (50 mL) and 1M aqueous NaOH (30 mL) at 0° C. was added 30% hydrogen peroxide solution (4 mL), and the reaction was stirred for 2 hours. The reaction was quenched with saturated aqueous Na2S2O3 solution, acidified with concentrated aqueous HCl, and extracted twice with ethyl acetate. The combined extracts were washed with brine, concentrated, and chromatographed on silica gel using 10% ethyl acetate/hexanes as eluent to give the product.

reactant | 2-chloro-3-fluorophenylboronic acid | 5.0 g | ClC1=C(C=CC=C1F)B(O)O | C6H5BClFO2
reactant | hydrogen peroxide | 4 mL | OO | H2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | NaOH | 1M, 30 mL | [OH-].[Na+]
product | 2-chloro-3-fluorophenol | ClC1=C(C=CC=C1F)O | C6H4ClFO
